US04643762
1-methyl-2-phenyl-3-oxo-4-(-3-trifluoromethylphenyl)-5-methylamino-4-pyrroline
In this example, 4.1 g of 1-methyl-2-phenyl-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-4-pyrroline, was added to 100 ml of methylene chloride containing 1.0 g of sodium hydroxide, dissolved in 4.0 ml of water, and 0.28 g of benzyltriethylammonium chloride at room temperature. Dimethyl sulfate (1.17 ml) dissolved in 20 ml of methylene chloride was admixed dropwise to the aforementioned mixture at room temperature. After the addition was complete, another 0.28 g of benzyltriethylammonium was added and the mixture was stirred at room temperature for 18 hours. At the end of this time, a white precipitate was collected from the mixture by filtration. This solid was stirred with 50 ml of 1N aqueous hydrochloric acid for two hours after which it was collected with suction filtration and washed with aqueous sodium bicarbonate solution followed by water. The solid was dried affording 1.0 g of the title compound as a white powder.

reactant | 1-methyl-2-phenyl-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-4-pyrroline | 4.1 g | CN1C(C(C(=C1N)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C18H15F3N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Dimethyl sulfate | 1.17 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | benzyltriethylammonium | 0.28 g | C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 4.0 ml | O | H2O
catalyst | benzyltriethylammonium chloride | 0.28 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml, 1.0 g | C(Cl)Cl | CH2Cl2
product | 1-methyl-2-phenyl-3-oxo-4-(-3-trifluoromethylphenyl)-5-methylamino-4-pyrroline | 1.0 g | CN1C(C(C(=C1NC)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C19H17F3N2O
